US06638967B2
To a stirred solution of bis-(4-hydroxy-phenyl)-methanone (7.00 g) in methanol (130 mL) was added at room temperature t-Bu3OK (14.7 g) followed by (3-chloro-propyl)-dimethyl-amine (10.3 g). The reaction mixture was heated under reflux for 18 h and was allowed to cool down to room temperature. Water (50 mL) was added and the solvent was removed in vacuo. Methylene chloride (650 mL) was added and the organic layer was washed with water (2×150 mL). The organic layer was dried over magnesium sulfate and the solvent was removed in vacuo. The crude products were separated and purified by flash chromatography on silica gel (chloroform/2 M ammonia in methanol) to give the title compound bis-[4-(3-dimethylamino-propoxy)-phenyl]-methanone as a colorless residue (250 mg). 1H NMR (400 MHz, CD3OD): 7.78 (d, 4 H), 7.09 (d, 4 H), 4.22 (t, 4 H), 3.37-3.40 (m, 4 H), 2.96 (s, 12 H), 2.24-2.31 (m, 4 H). And title compound [4-(3-dimethylamino-propoxy)-phenyl]-(4-hydroxy-phenyl)-methanone as a colorless residue (150 mg). 1H NMR (400 MHz, CD3OD): 7.88-7.99 (m, 4 H), 7.25-7.29 (m, 2 H), 7.08-7.13 (m, 2 h), 4.48 (t, 2 H), 2.69-2.76 (m, 2 H), 2.56 (s, 6 H), 2.23-2.30 (m, 2 H).

reactant | bis-(4-hydroxy-phenyl)-methanone | 7.00 g | OC1=CC=C(C=C1)C(=O)C1=CC=C(C=C1)O | C13H10O3
reactant | (3-chloro-propyl)-dimethyl-amine | 10.3 g | ClCCCN(C)C | C5H12ClN
reactant | Water | 50 mL | O | H2O
solvent | methanol | 130 mL | CO | CH4O
product | bis-[4-(3-dimethylamino-propoxy)-phenyl]-methanone | CN(CCCOC1=CC=C(C=C1)C(=O)C1=CC=C(C=C1)OCCCN(C)C)C | C23H32N2O3
